US08168666B2
c) Preparation of 2-propyl-4-[1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl]phenyl acetate
Pyridine (14.7 mL) was added to 2-(4-hydroxy-3-propylphenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (13.76 g, 45.5 mmol) in dichloromethane (200 mL) at room temperature, and then acetic anhydride (17.3 mL) was added. After stirring overnight, methanol (300 mL) was added. After stirring at room temperature for one hour, the reaction solution was concentrated under reduced pressure. Water was added to the resulting residue, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 13.67 g of the title compound (yield: 87%) as a red brown oil.

reactant | Pyridine | 14.7 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-(4-hydroxy-3-propylphenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 45.5 mmol, 13.76 g | OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC | C12H12F6O2
reactant | acetic anhydride | 17.3 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 300 mL | CO | CH4O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-propyl-4-[1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl]phenyl acetate | 13.67 g, yield: 87% | C(C)(=O)OC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC | C14H14F6O3
